US04057636
N-tert-Butyl-N"-cyano-N'-3-pyridylguanidine
N-tert-butyl-N'-3-pyridylthiourea (2.1 g) and lead cyanamide (3.7 g) were refluxed in ethanol (20 ml) for 18 hours. The mixture was filtered, and the filtrate was evaporated in vacuo to afford the crude product. Recrystallization from aqueous acetone gave the desired compound. Melting point 205.0°-206.5° C.

reactant | N-tert-butyl-N'-3-pyridylthiourea | 2.1 g | C(C)(C)(C)NC(=S)NC=1C=NC=CC1 | C10H15N3S
reactant | lead cyanamide | 3.7 g | N#CN.[Pb]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-tert-Butyl-N"-cyano-N'-3-pyridylguanidine | C(C)(C)(C)NC(=NC#N)NC=1C=NC=CC1 | C11H15N5
